US07045544B2
5-Nitro-1H-indole-2-carboxylic acid
16.5 g (66.93 mmol) of ethyl 5-nitroindole-2-carboxylate are dissolved in 200 ml each of methanol and THF, and 67 ml (133.85 mmol) of lithium hydroxide solution are added. The mixture is heated at 90° C. for half an hour. After cooling, the mixture is, for work-up, diluted and extracted with aqueous hydrochloric acid and ethyl acetate. The organic phase is washed with sat. sodium chloride solution, dried with sodium sulphate, filtered and dried under reduced pressure.

reactant | ethyl 5-nitroindole-2-carboxylate | 66.93 mmol, 16.5 g | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10N2O4
reactant | lithium hydroxide | 133.85 mmol, 67 ml | [OH-].[Li+]
solvent | methanol | 200 ml | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 5-Nitro-1H-indole-2-carboxylic acid | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)O | C9H6N2O4
